US05459138
EXAMPLE 75: 6-METHYL-4H-PYRIDO[3,2-e][1,2,4]THIADIAZINE 1,1-DIOXIDE
A suspension of 1.3 g of 3-amino-5-methylpyridine-2-sulfonamide (Preparation 25) in 13 cm3 of ethyl orthoformate is brought to reflux for 2 hours. After cooling, the precipitate obtained is collected on a filter, washed with diethyl ether and dried.

reactant | 3-amino-5-methylpyridine-2-sulfonamide | 1.3 g | NC=1C(=NC=C(C1)C)S(=O)(=O)N | C6H9N3O2S
reactant | ethyl orthoformate | 13 cm3 | C(OCC)([O-])[O-]
product | 6-METHYL-4H-PYRIDO[3,2-e][1,2,4]THIADIAZINE 1,1-DIOXIDE | CC1=CC=2NC=NS(C2N=C1)(=O)=O | C7H7N3O2S
